US07943651B2
1-{[3-(4-{[(2R)-4-(5-Fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-prolinamide
1-{[3-(4-{[(2R)-4-[5-Fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-prolinamide (340 mg, 0.5185 mmol) was dissolved in anhydrous dichloromethane (12 mL) and cooled to −78° C. (cardice/acetone bath) under nitrogen. Boron tribromide (1.0M in dichloromethane, 2.57 mL, 2.57 mmol) was then added portionwise and after 5 minutes the stirred mixture was allowed to warm slowly to room temperature under nitrogen. After 4 hours, LCMS suggested little reaction had occurred and the mixture was re-cooled to −78° C. and additional boron tribromide (1.0M in dichloromethane, 2 mL, 2 mmol) was added and the mixture was then stirred at room temperature overnight. LCMS still indicated the reaction was incomplete and the mixture was re-cooled to −78° C. once more and more boron tribromide (1.0M in dichloromethane, 2 mL, 2 mmol) was added and the mixture stirred at room temperature for 3 hours before being re-cooled to −78° C. and quenched by the gradual addition of methanol (5 mL). The reaction was warmed to room temperature when more dichloromethane (30 mL) and aqueous saturated sodium hydrogen carbonate solution (75 mL) were added and the mixture stirred vigorously for 5 minutes. The organic phase was separated by passing through a hydrophobic frit and evaporated in vacuo. This crude product was purified by mass-directed autopreparation. Product containing fractions were combined and partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic layer was washed successively water and brine, dried through a hydrophobic frit and evaporated in vacuo to give the title compound (98 mg).

reactant | 1-{[3-(4-{[(2R)-4-[5-Fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-prolinamide | 0.5185 mmol, 340 mg | FC=1C=CC(=C(C1)C(C[C@@](CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C=CC1)C(=O)N1[C@@H](C(=O)N)CCC1)(C(F)(F)F)O)(C)C)OC | C34H37F4N5O4
reactant | cardice acetone | C(=O)=O.CC(=O)C
reactant | Boron tribromide | 2.57 mmol, 1.0M, 2.57 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 2 mmol, 1.0M, 2 mL | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 2 mmol, 1.0M, 2 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 1-{[3-(4-{[(2R)-4-(5-Fluoro-2-hydroxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)phenyl]carbonyl}-D-prolinamide | 98 mg | FC=1C=CC(=C(C1)C(C[C@@](CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C=CC1)C(=O)N1[C@@H](C(=O)N)CCC1)(C(F)(F)F)O)(C)C)O | C33H35F4N5O4
